US04941909
71 g of iron powder are placed in 190 ml of ethanol, 50 ml of water and 5 ml of 32% hydrochloric acid while stirring and the whole is heated to 75° C. (internal temperature). A warm solution of 100 g of cyclopentyl 2-chloro-4-fluoro-5-nitrobenzoate in 50 ml of ethanol is added dropwise to this mixture. The reaction mixture is stirred at 70°-75° C. (internal temperature) for a further 2 hours, cooled, after cooling suction filtered over Celite and the residue on the suction filter is rinsed with 500 ml of water followed by 200 ml of ethyl acetate. The filtrate is brought to a PH value of 8 with saturated potassium bicarbonate solution and the resulting brown precipitate is filtered off over Celite. The filtrate is extracted twice with 400 ml of ethyl acetate each time. the combined organic phases are washed twice with 200 ml of saturated sodium chloride solution each time, dried over anhydrous magnesium sulphate and concentrated. Then, the residue is purified by chromatography on a silica gel column using ethyl acetate/n-hexane (1:4) as the eluent and crystallized from diisopropyl ether/n-hexane. In this manner there is obtained cyclopentyl 5-amino-2-chloro-4-fluorobenzoate, m.p. 61°-62° C.

reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | cyclopentyl 2-chloro-4-fluoro-5-nitrobenzoate | 100 g | ClC1=C(C(=O)OC2CCCC2)C=C(C(=C1)F)[N+](=O)[O-] | C12H11ClFNO4
solvent | ethanol | 190 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 71 g | [Fe] | Fe
product | cyclopentyl 5-amino-2-chloro-4-fluorobenzoate | NC=1C(=CC(=C(C(=O)OC2CCCC2)C1)Cl)F | C12H13ClFNO2
